US08754100B2
Synthesis of 8-(2-trifluoromethylbenzyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
1-Amino-3-(2-trifluoromethylbenzyl)piperidin-2-one (916 mg) and cyanamide (849 mg) were dissolved in ethanol (15 mL). p-Toluenesulfonic acid monohydrate (961 mg) was added and the mixture was heated under reflux at 80° C. for 3.5 hours. After cooling to room temperature, triethylamine (2.3 mL) was added and the mixture was further heated under reflux at 80° C. for four days. A sodium bicarbonate solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration and then the organic layer was concentrated under reduced pressure. The resulting solid was washed with ethyl acetate to obtain the title compound (244 mg). The property values of the compound are as follows.

reactant | 1-Amino-3-(2-trifluoromethylbenzyl)piperidin-2-one | 916 mg | NN1C(C(CCC1)CC1=C(C=CC=C1)C(F)(F)F)=O | C13H15F3N2O
reactant | cyanamide | 849 mg | N#CN | CH2N2
reactant | p-Toluenesulfonic acid monohydrate | 961 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 2.3 mL | C(C)N(CC)CC | C6H15N
product | 8-(2-trifluoromethylbenzyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 244 mg | FC(C1=C(CC2C=3N(CCC2)N=C(N3)N)C=CC=C1)(F)F | C14H15F3N4
